### PR TITLE
Komlós Lemma

### LINKED ISSUE #374: Komlos lemma
This is a big task that covers several lemmas in the blueprint, which are grouped because they share a common difficulty.
The main difficulty will probably be to find a good way to talk about the weights in convex combinations. Once this is solved and the lemmas are stated in Lean, feel free to create subtasks to delegate goals to others (or ask me to do it).

Final goal: https://remydegenne.github.io/brownian-motion/blueprint/chap-doob_meyer.html#lem:komlos
This task also means implementing the lemmas above, starting from https://remydegenne.github.io/brownian-motion/blueprint/chap-doob_meyer.html#lem:convex_of_converg_seq_is_converg

Lean goal:
https://github.com/RemyDegenne/brownian-motion/blob/f29ab76ee4e950501d8ea5f9153712ce414c5f6a/BrownianMotion/StochasticIntegral/Komlos.lean#L115C6-L120C7

### PR DESCRIPTION
**Pull request by TBUGTB**
Work on #374. My plan is to focus on formalizing lemma 12.12 in the blueprint which is where most of the difficulty lies. The initial version of this PR is still very much WIP. 

Closes #374

### CODE REVIEW

**Comment by TBUGTB** [comment]
awaiting-review

**Comment by TBUGTB** [comment]
The PR might still deserve a bit of cleanup, but I think it's far enough along so that initial feedback would be meaningful. 

The main lemma `komlos_convex_weights` still lacks the convex weights properties (summing up to one, nonnegativity), but they should be trivial to add. Before adding all of this detail, I wanted to first make the decision about introducing a bundled definition for convex weights (cf. the Zulip discussion).   

AI disclaimer: some of the simple lemmas in `ConvexWeights.lean` were proven by Aristotle and I still need to golf their proofs.

File: blueprint/src/chapters/doob_meyer.tex [hunk 1]
```diff
@@ -96,31 +92,49 @@ \section{Komlòs Lemma}
...
+\end{align*}
 
 We have thus defined, for all $k, n \in \mathbb{N}$, convex weights $(\lambda^{k,n}_m)$ (that are zero for $m < n$) such that $\sum_{m \ge n}((\lambda^{k,n}_\cdot * \ldots * \lambda^{1, \cdot}_\cdot))_m x_m^{(k)}$ converges to $g^k$.
 \end{proof}
 
 
 \begin{lemma}\label{lem:komlos_convex_weights_tendsto}
+  \lean{komlos_uniform_convergence}
   \uses{lem:komlos_convex_weights}
+  \leanok
```
Comment (RemyDegenne) [inline blueprint/src/chapters/doob_meyer.tex:136]: This leanok records that the statement was formalized. If you also formalized the proof, you need to add one to the proof environment as well (replace `\begin{proof}` by `\begin{proof}\leanok`).

Comment (TBUGTB) [reply blueprint/src/chapters/doob_meyer.tex:136]: Thanks for noticing, I forgot about that \leanok. I added it in my latest commit.

File: BrownianMotion/StochasticIntegral/ConvexWeights.lean [hunk 2]
```diff
@@ -0,0 +1,112 @@
...
+    simp [aux, hw₁, hw₂]
+  exact hx
+
+/-- Given convex weights `a : StdSimplex R ι` and a family of convex weights
+`b : ι → StdSimplex R ι'`, `convexWeightsMul a b` is the convex combination of the `b k`, weighted
+by `a`. We show that, `(convexWeightsMul a b) m = ∑ k ∈ a.support, a k * b k m` in
+`convexWeightsMul_eq` and define it here more abstractly using `StdSimplex.map` and
+`StdSimplex.join`. -/
+def convexWeightsMul (a : StdSimplex R ι) (b : ι → StdSimplex R ι') : StdSimplex R ι' :=
+  (a.map b).join
```
Comment (RemyDegenne) [inline BrownianMotion/StochasticIntegral/ConvexWeights.lean]: join of map is called `bind` in a monad. Like for example [MeasureTheory.Measure.bind](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/Measure/GiryMonad.html#MeasureTheory.Measure.bind)
So this should be `StdSimplex.bind`.

Comment (RemyDegenne) [reply BrownianMotion/StochasticIntegral/ConvexWeights.lean]: And probably there are a bunch of standard lemmas about the relations between map, bind and join that could be proved here as well.

File: BrownianMotion/StochasticIntegral/ConvexWeights.lean [hunk 3]
```diff
@@ -0,0 +1,86 @@
...
+  positivity
+
+/-- Given a doubly-indexed family of convex weights `cw : ℕ → ℕ → StdSimplex R ℕ`,
+`iteratedBind cw k n` is the iterated convex multiplication obtained by combining
+the weights `cw 0 n, cw 1 n, …, cw k n` via `StdSimplex.bind`. -/
+def iteratedBind (cw : ℕ → ℕ → StdSimplex R ℕ) : ℕ → ℕ → StdSimplex R ℕ
+  | 0 => cw 0
+  | k + 1 => fun n ↦ bind (cw (k + 1) n) (iteratedBind cw k)
+
+lemma iteratedBind_cong {cw1 cw2 : ℕ → ℕ → StdSimplex R ℕ} {k : ℕ}
```
Comment (RemyDegenne) [inline BrownianMotion/StochasticIntegral/ConvexWeights.lean]: The abbreviation for congruence in names is congr
```suggestion
lemma iteratedBind_congr {cw1 cw2 : ℕ → ℕ → StdSimplex R ℕ} {k : ℕ}
```

File: BrownianMotion/StochasticIntegral/ConvexWeights.lean [hunk 4]
```diff
@@ -0,0 +1,86 @@
...
+variable (a : StdSimplex R M) (b : M → StdSimplex R N)
+
+@[simp]
+lemma bind_single (i : M) : bind (single i) b = b i := by simp [bind, join]
+
+@[simp]
+lemma bind_const (c : StdSimplex R N) : bind a (fun _ ↦ c) = c := by simp [bind, join]
+
+lemma bind_weights :
+  (bind a b).weights = (fun m ↦ ∑ k ∈ a.support, a.weights k * (b k).weights m) := by
```
Comment (RemyDegenne) [inline BrownianMotion/StochasticIntegral/ConvexWeights.lean]: Order in the name, spacing of the statement:
```suggestion
lemma weights_bind :
    (bind a b).weights = (fun m ↦ ∑ k ∈ a.support, a.weights k * (b k).weights m) := by
```

File: BrownianMotion/StochasticIntegral/ConvexWeights.lean [hunk 5]
```diff
@@ -0,0 +1,86 @@
...
+  ext m
+  rw [bind, join, map]
+  simp only [Finsupp.sum_apply]
+  rw [Finsupp.sum_mapDomain_index (fun _ => by simp) (fun _ _ _ => by simp [add_mul])]
+  simp [Finsupp.sum]
+
+lemma support_subset_bind_support {a : StdSimplex R M} (b : M → StdSimplex R N)
```
Comment (RemyDegenne) [inline BrownianMotion/StochasticIntegral/ConvexWeights.lean]:
```suggestion
lemma support_subset_support_bind {a : StdSimplex R M} (b : M → StdSimplex R N)
```

File: BrownianMotion/StochasticIntegral/Komlos.lean [hunk 6]
```diff
@@ -20,40 +23,40 @@ variable {E Ω : Type*} {mΩ : MeasurableSpace Ω}
 open Filter MeasureTheory
 open scoped Topology NNReal ENNReal
 
-lemma komlos_convex [AddCommMonoid E] [Module ℝ≥0 E]
+lemma komlos_convex [AddCommMonoid E] [Module ℝ E]
```
Comment (RemyDegenne) [inline BrownianMotion/StochasticIntegral/Komlos.lean]: Does the change from `ℝ≥0` to `ℝ` change anything to https://github.com/RemyDegenne/brownian-motion/pull/358?

File: BrownianMotion/StochasticIntegral/Komlos.lean [hunk 7]
```diff
@@ -115,12 +118,253 @@ lemma komlos_norm [NormedAddCommGroup E] [InnerProductSpace ℝ E] [CompleteSpac
     rw [dist_eq_norm]
     exact (pow_lt_pow_iff_left₀ (norm_nonneg (g m - g n)) (by positivity) (by norm_num)).mp this
   rcases CompleteSpace.complete g_cauchy with ⟨x, hx⟩
-  exact ⟨x, hg, hx⟩
+  tauto
 
-theorem komlos_L1 [NormedAddCommGroup E] [InnerProductSpace ℝ E] [CompleteSpace E]
-    [MeasurableSpace E] [BorelSpace E] {f : ℕ → Ω → E} {P : Measure Ω}
+
+lemma stdSimplex_of_mem_convexHull {M ι : Type*} [AddCommGroup E] [Field M] [LinearOrder M]
```
Comment (RemyDegenne) [inline BrownianMotion/StochasticIntegral/Komlos.lean]:
```suggestion
lemma exists_stdSimplex_of_mem_convexHull {M ι : Type*} [AddCommGroup E] [Field M] [LinearOrder M]
```

File: BrownianMotion/StochasticIntegral/Komlos.lean [hunk 8]
```diff
@@ -115,12 +118,253 @@ lemma komlos_norm [NormedAddCommGroup E] [InnerProductSpace ℝ E] [CompleteSpac
...
+    repeat rw [Finsupp.sum_add_index (by simp) (fun _ _ _ _ ↦ Module.add_smul _ _ _)]
+    have aux (c : M) (w : StdSimplex M ι) : c • (w.sum fun i wi ↦ wi • s i)
+      = ((Finsupp.single w c).sum fun d r ↦ r • d.weights).sum fun i wi ↦ wi • s i := by
+      simp only [zero_smul, Finsupp.sum_single_index]
+      rw [Finsupp.sum_smul_index (by simp only [zero_smul, implies_true])]
+      simp_rw [mul_smul, ← Finsupp.smul_sum]
+    simp [aux, hw₁, hw₂]
+  exact hx
+
+noncomputable section
```
Comment (RemyDegenne) [inline BrownianMotion/StochasticIntegral/Komlos.lean]:
```suggestion
```
Please put `noncomputable` in front of the definitions that need it.

File: BrownianMotion/StochasticIntegral/ConvexWeights.lean [hunk 9]
```diff
@@ -0,0 +1,86 @@
+module
+
+public import Mathlib.Analysis.InnerProductSpace.Defs
+public import Mathlib.LinearAlgebra.ConvexSpace
+
+/-
+# Lemmas on StdSimplex
+-/
+
+@[expose] public noncomputable section
```
Comment (RemyDegenne) [inline BrownianMotion/StochasticIntegral/ConvexWeights.lean]:
```suggestion
@[expose] public section
```
Please add noncomputable to the definitions that need it.

File: BrownianMotion/StochasticIntegral/Komlos.lean [hunk 10]
```diff
@@ -115,12 +118,253 @@ lemma komlos_norm [NormedAddCommGroup E] [InnerProductSpace ℝ E] [CompleteSpac
...
+variable [NormedAddCommGroup E] [InnerProductSpace ℝ E]
+
+lemma convex_combination_bounded {x : ℕ → E}
+    {w : ℕ → StdSimplex ℝ ℕ} (hx : ∃ M : ℝ, ∀ n, ‖x n‖ ≤ M) :
+    ∃ M, ∀ n, ‖(w n).sum (fun i wi ↦ wi • x i)‖ ≤ M := by
+  obtain ⟨M, hM⟩ := hx
+  use M
+  intro n
```
Comment (RemyDegenne) [inline BrownianMotion/StochasticIntegral/Komlos.lean]: You can prove this stronger statement, that shows that the bound is the same:
```suggestion
lemma convex_combination_bounded {x : ℕ → E}
    {w : ℕ → StdSimplex ℝ ℕ} {M : ℝ} (hx : ∀ n, ‖x n‖ ≤ M) (n : ℕ) :
    ‖(w n).sum (fun i wi ↦ wi • x i)‖ ≤ M := by
```

File: BrownianMotion/StochasticIntegral/Komlos.lean [hunk 11]
```diff
@@ -115,12 +118,253 @@ lemma komlos_norm [NormedAddCommGroup E] [InnerProductSpace ℝ E] [CompleteSpac
...
+  refine mul_le_of_le_one_left ?_ bound
+  exact le_trans (norm_nonneg (x 0)) (hM 0)
+
+/-- `komlosFormula x cw k n` is the convex combination of the stage-`k` vectors `x k m`,
+weighted by `iteratedBindSimplex cw k n`. It is the sequence whose convergence is
+established at each stage of the Komlós construction. -/
+def komlosFormula (x : ℕ → ℕ → E) (cw : ℕ → ℕ → StdSimplex ℝ ℕ) (k i n : ℕ) : E :=
+  (StdSimplex.iteratedBind cw k n).sum (fun m cwm ↦ cwm • x i m)
+
+lemma komlosFormula_cong (x : ℕ → ℕ → E) {cw1 : ℕ → ℕ → StdSimplex ℝ ℕ}
```
Comment (RemyDegenne) [inline BrownianMotion/StochasticIntegral/Komlos.lean]:
```suggestion
lemma komlosFormula_congr (x : ℕ → ℕ → E) {cw1 : ℕ → ℕ → StdSimplex ℝ ℕ}
```

File: BrownianMotion/StochasticIntegral/Komlos.lean [hunk 12]
```diff
@@ -115,12 +118,253 @@ lemma komlos_norm [NormedAddCommGroup E] [InnerProductSpace ℝ E] [CompleteSpac
...
+/--
+We define the `convexTail` of a sequence `x` to be the set of sequences `y` with the property that
+every `y n` can be written as a convex combination of elements `x k` with `k ≥ n`.
+-/
+def convexTail (x : ℕ → E) : Set (ℕ → E) :=
+  { y | ∀ n, y n ∈ convexHull ℝ (Set.range (fun m ↦ x (n + m))) }
+
+lemma convex_weights_of_mem_convexTail_reindexed {x g : ℕ → E} (hg : g ∈ convexTail x) :
+  ∀ n, ∃ w : StdSimplex ℝ ℕ, g n = w.sum (fun i wi ↦ wi • x i) ∧ ∀ m < n, w.weights m = 0 := by
+  intro n
```
Comment (RemyDegenne) [inline BrownianMotion/StochasticIntegral/Komlos.lean]:
```suggestion
lemma exists_stdSimplex_of_mem_convexTail_reindexed {x g : ℕ → E} (hg : g ∈ convexTail x) (n : ℕ) :
  ∃ w : StdSimplex ℝ ℕ, g n = w.sum (fun i wi ↦ wi • x i) ∧ ∀ m < n, w.weights m = 0 := by
```

File: BrownianMotion/StochasticIntegral/Komlos.lean (hunk 6 above)
Comment (TBUGTB) [reply BrownianMotion/StochasticIntegral/Komlos.lean]: As far as I can see the only shared lemma is `komlos_convex`. I will try to generalise it to some algebraic structure that works both for `ℝ` and `ℝ≥0`.

Comment (RemyDegenne) [reply BrownianMotion/StochasticIntegral/Komlos.lean]: ~~I looked at the PR and it uses `komlos_convex` only for `E = ℝ` so your change is fine. No need to try and generalize.~~
No that's nor right, I looked too quickly, sorry.

Comment (TBUGTB) [reply BrownianMotion/StochasticIntegral/Komlos.lean]: With the help of Aristotle I managed to find the right instances that make this lemma work for an arbitrary semifield R and that we can instantiate with ℝ and ℝ≥0, cf. my latest commit
(all code written by myself -- I just copied over the instances Aristotle had proposed and fixed the rest of the proof manually)

Comment (RemyDegenne) [reply BrownianMotion/StochasticIntegral/Komlos.lean]: Very nice, thanks!

File: BrownianMotion/StochasticIntegral/Komlos.lean [hunk 13]
```diff
@@ -115,12 +121,251 @@ lemma komlos_norm [NormedAddCommGroup E] [InnerProductSpace ℝ E] [CompleteSpac
...
+  | succ k _ => exact Classical.choose_spec (komlos_step hx k (komlosStage hx k)) |>.1
+
+private lemma komlosStage_cong_succ {x : ℕ → ℕ → E} (hx : ∀ i : ℕ, ∃ M : ℝ, ∀ n, ‖x i n‖ ≤ M)
+  (k : ℕ) : ∀ i ≤ k, (komlosStage hx k).val i = (komlosStage hx (k+1)).val i := by
+  intro i hi
+  let aux := komlos_step hx k (komlosStage hx k)
+  let ⟨_, aux2, _⟩ := Classical.choose_spec aux
+  exact Eq.symm (aux2 i hi)
+
+private lemma komlosStage_cong {x : ℕ → ℕ → E} (hx : ∀ i : ℕ, ∃ M : ℝ, ∀ n, ‖x i n‖ ≤ M)
```
Comment (RemyDegenne) [inline BrownianMotion/StochasticIntegral/Komlos.lean]:
```suggestion
private lemma komlosStage_congr {x : ℕ → ℕ → E} (hx : ∀ i : ℕ, ∃ M : ℝ, ∀ n, ‖x i n‖ ≤ M)
```

File: BrownianMotion/StochasticIntegral/Komlos.lean [hunk 14]
```diff
@@ -115,12 +121,251 @@ lemma komlos_norm [NormedAddCommGroup E] [InnerProductSpace ℝ E] [CompleteSpac
...
+        rw [transfer k hk]
+        exact hprevious k hk
+
+private lemma komlosStage_lim {x : ℕ → ℕ → E} (hx : ∀ i : ℕ, ∃ M : ℝ, ∀ n, ‖x i n‖ ≤ M) (k : ℕ) :
+  (∃ glim : E, Tendsto (komlosFormula x (komlosStage hx k) k k) atTop (𝓝 glim)) := by
+  induction k with
+  | zero => exact (Classical.choose_spec (komlos_base hx)).1
+  | succ k _ => exact Classical.choose_spec (komlos_step hx k (komlosStage hx k)) |>.1
+
+private lemma komlosStage_cong_succ {x : ℕ → ℕ → E} (hx : ∀ i : ℕ, ∃ M : ℝ, ∀ n, ‖x i n‖ ≤ M)
```
Comment (RemyDegenne) [inline BrownianMotion/StochasticIntegral/Komlos.lean]:
```suggestion
private lemma komlosStage_congr_succ {x : ℕ → ℕ → E} (hx : ∀ i : ℕ, ∃ M : ℝ, ∀ n, ‖x i n‖ ≤ M)
```

File: BrownianMotion/StochasticIntegral/Komlos.lean [hunk 15]
```diff
@@ -115,12 +121,251 @@ lemma komlos_norm [NormedAddCommGroup E] [InnerProductSpace ℝ E] [CompleteSpac
...
+  (k : ℕ) : ∀ i ≤ k, (komlosStage hx k).val i = (komlosStage hx (k+1)).val i := by
+  intro i hi
```
Comment (RemyDegenne) [inline BrownianMotion/StochasticIntegral/Komlos.lean]:
```suggestion
    (k i : ℕ) (hi : i ≤ k) : 
    (komlosStage hx k).val i = (komlosStage hx (k+1)).val i := by
```

File: BrownianMotion/StochasticIntegral/Komlos.lean [hunk 16]
```diff
@@ -115,12 +121,251 @@ lemma komlos_norm [NormedAddCommGroup E] [InnerProductSpace ℝ E] [CompleteSpac
...
+
+lemma komlos_uniform_convergence
+    {x : ℕ → ℕ → E} (hx : ∀ i : ℕ, ∃ M : ℝ, ∀ n, ‖x i n‖ ≤ M)
+    (cw : ℕ → ℕ → StdSimplex ℝ ℕ) (lim : ℕ → E)
+    (hcw: ∀ k : ℕ, Tendsto (komlosFormula x cw k k) atTop (𝓝 (lim k))) :
+    ∀ i, TendstoUniformly (fun k ↦ komlosFormula x cw k i) lim atTop
+    -- maybe too strong, the blueprint statement limits to k ≥ i
+     := by
+    intro i
+    sorry
```
Comment (RemyDegenne) [inline BrownianMotion/StochasticIntegral/Komlos.lean]:
```suggestion
  intro i
  sorry
```

File: BrownianMotion/StochasticIntegral/Komlos.lean [hunk 17]
```diff
@@ -115,12 +121,251 @@ lemma komlos_norm [NormedAddCommGroup E] [InnerProductSpace ℝ E] [CompleteSpac
...
+  have htail : Set.range (fun m ↦ x (n + m)) ⊆ Metric.ball xlim ε := by
+    rintro _ ⟨m, rfl⟩
+    simpa using hN (n + m) (le_trans hn (Nat.le_add_right n m))
+  have : dist xlim (y.1 n) < ε := by
+    simpa [dist_comm] using (convexHull_min htail (convex_ball xlim ε)) (y.2 n)
+  simpa only [gt_iff_lt] using this
+
+omit [CompleteSpace E] in
+lemma Tendsto_convexTail {x : ℕ → E} {xlim : E} (hx : Tendsto x atTop (𝓝 xlim)) :
+  ∀ y ∈ convexTail x, Tendsto y atTop (𝓝 xlim) := by
```
Comment (RemyDegenne) [inline BrownianMotion/StochasticIntegral/Komlos.lean]:
```suggestion
lemma Tendsto_convexTail {x : ℕ → E} {xlim : E} (hx : Tendsto x atTop (𝓝 xlim)) :
    ∀ y ∈ convexTail x, Tendsto y atTop (𝓝 xlim) := by
```

**Review by RemyDegenne — APPROVED** [review]
Thanks!
